US05688946
(S)-α-[(tert-Butylsulphonyl)methyl]-3-thiophenepropionic acid
This compound was prepared analogously to Example 1 by the enzymatic hydrolysis of ethyl (RS)-α-[(tert-butylsulphonyl)methyl]-3-thiophenepropionate which, in turn, was prepared starting from diethyl 3-thienylmethylmalonate [J. Am. Chem. Soc. 76, 4466 (1954)] analogously to the synthesis of ethyl (RS)-α-[(tert-butylsulphonyl)methyl]hydrocinnamate described in EPA 0236734, MS: 318 (M)+.

reactant | ethyl (RS)-α-[(tert-butylsulphonyl)methyl]-3-thiophenepropionate | C(C)(C)(C)S(=O)(=O)CC(C(=O)OCC)CC1=CSC=C1 | C14H22O4S2
reactant | diethyl 3-thienylmethylmalonate | S1C=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C12H16O4S
product | (S)-α-[(tert-Butylsulphonyl)methyl]-3-thiophenepropionic acid | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC1=CSC=C1 | C12H18O4S2
